US07034032B2
a) (3R)-3-[Bis[(1,1-dimethylethoxy)carbonyl]amino]-1-cyclopentene
To a solution of (1S-cis)-4-(di-tert-butoxycarbonylamino)cyclopent-2-enyl acetate (prepared as described by D. Zhang et.al. Tett. Lett. 1996, 3799–3802) (8.98 g), tetrakis(triphenylphosphine)palladium(0) (0.463 g) in isopropanol (135 ml) and tetrahydrofuran (135 ml) was added sodium borohydride (4.97 g) portionwise at 0° C. The mixture was stirred at 0° C. for 3 hours before the careful dropwise addition of glacial acetic acid (20 ml). The solution was concentrated in vacuo and the residue purified by chromatography (SiO2, diethylether 1:9 isohexane as eluent) to afford the sub-title compound (5.90 g).

reactant | (1S-cis)-4-(di-tert-butoxycarbonylamino)cyclopent-2-enyl acetate | 8.98 g | C(C)(=O)O[C@@H]1C=C[C@@H](C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H27NO6
reactant | sodium borohydride | 4.97 g | [BH4-].[Na+]
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | isopropanol | 135 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 135 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.463 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3R)-3-[Bis[(1,1-dimethylethoxy)carbonyl]amino]-1-cyclopentene | 5.90 g | CC(C)(OC(=O)N([C@H]1C=CCC1)C(=O)OC(C)(C)C)C | C15H25NO4
